US08895745B2
Step 2: 1-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea
A mixture of 1-(3-bromo-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea (2.1 g, 7.1 mmol), bis(pinacolato)diboron (3.6 g, 14 mmol) and KOAc (2.1 g, 21 mmol) in dry DMSO (7 ml) was deoxygenated by evacuation/refill with N2 (×3). PdCl2ddpf (512 mg, 0.7 mmol) was added and the mixture was deoxygenated again (×2) then stirred and heated at 100° C. under N2 for 3 hours. The reaction was allowed to cool to RT and then left to stand at this temperature for 18 hours. The mixture was partitioned between EtOAc/H2O then filtered through Celite®. The layers were separated and the aqueous layer was extracted with EtOAc (×1). The combined organic extracts were washed with water (×1), brine (×1), then dried (MgSO4), filtered and evaporated. The residue was triturated with petrol to give the title compound (2.6 g, solid). 1H NMR (400 MHz, CDCl3): 7.65 (1H, s), 7.60 (1H, d), 7.49 (1H, d), 7.37 (1H, t), 6.64 (1H, brs), 5.20 (1H, brs), 3.99-3.86 (2H, m), 1.35 (12H, s).

reactant | 1-(3-bromo-phenyl)-3-(2,2,2-trifluoro-ethyl)-urea | 7.1 mmol, 2.1 g | BrC=1C=C(C=CC1)NC(=O)NCC(F)(F)F | C9H8BrF3N2O
reactant | bis(pinacolato)diboron | 14 mmol, 3.6 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 21 mmol, 2.1 g | CC(=O)[O-].[K+]
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
product | 1-[3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | 2.6 g | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NC(=O)NCC(F)(F)F)C | C15H20BF3N2O3
